US05631259
7.56 g (50 mmol) of guanine are reacted with 2 mol % of the palladium(0) catalyst prepared in situ as above and one equivalent of 3,4-epoxycyclohexene in tetrahydrofuran first at 0° C. and then for 8 hours under reflux temperature, and the mixture is then poured into methanol. The reaction mixture is concentrated and the residue is taken up in 2-propanol and filtered off with suction. The residue is recrystallized first from ethanol with active charcoal and then from water. 3.1 g (25.1% of theory) of 9-[(1RS,4SR)-4-hydroxy-cyclohex-2-en-1-yl]guanine of melting point >300° C. are obtained. 1H NMR (270 MHz, d6 -DMSO); δ[ppm]: 10.57 (s, 1H), 7.60 (s, 1H), 6.46 (s, 2H), 6.05 (m, 1H), 5.77 (m, 1H), 4.91 (d, 1H), 4.79 (m, 1H), 4.06 (m, 1H), 1.95-1.75 (m, 3H), 1.53 (m, 1H).

reactant | guanine | 50 mmol, 7.56 g | N1C(N)=NC=2N=CNC2C1=O | C5H5N5O
reactant | 3,4-epoxycyclohexene | one equivalent | O1C2C=CCCC21 | C6H8O
reactant | methanol | CO | CH4O
catalyst | palladium(0) | [Pd] | Pd
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 9-[(1RS,4SR)-4-hydroxy-cyclohex-2-en-1-yl]guanine | 3.1 g, 25.1% | OC1C=CC(CC1)N1C=2N=C(NC(C2N=C1)=O)N | C11H13N5O2
